US03932430
Following the procedure of step B of Example 1 , the above 3'-(4-pyridyl)-spiro[1,2,3,4-tetrahydronaphthalene-2,2'-oxirane]-1-one is treated with hydrazine to yield 4,5-dihydro-3-(4-pyridyl)-2H-naphtho[ 1,2-c]pyrazole.

reactant | 3'-(4-pyridyl)-spiro[1,2,3,4-tetrahydronaphthalene-2,2'-oxirane]-1-one | N1=CC=C(C=C1)C1C2(O1)C(C1=CC=CC=C1CC2)=O | C16H13NO2
reactant | hydrazine | NN | H4N2
product | 4,5-dihydro-3-(4-pyridyl)-2H-naphtho[ 1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1CC2 | C16H13N3
